US06201087B1
4.2 g (16 mmol) of 7-(6-hydroxy-hexyloxy)-2H-1 -benzopyran-2-one were dissolved in 40 ml of absolute tetrahydrofuran with the exclusion of moisture, treated with 1.82 g (18 mmol) of triethylamine, 0.004 g (0.3 mmol) of 4-dimethylaminopyridine and a spatula tip of 2,6-di-tert.-butyl-p-cresol and cooled to 0° C. 1.7 ml of methacryloyl chloride were added dropwise to this solution within 10 min. The mixture was stirred at 0° C. for one hour and at room temperature for a further hour. Subsequently, the white precipitate which separated was filtered off and rinsed with tetrahydrofuran. The filtrate was evaporated to dryness and the residue was chromatographed on silica gel with acetone/cyclohexane (1:4). In this manner there were obtained 4 g of 6-(2-oxo-2H-1-benzopyran-7-yloxy)-hexyl 2-methyl-acrylate as a colourless liquid. λmax. (in CH2Cl2)=322.7 nm (ε=15110 l/mol cm).

reactant | 7-(6-hydroxy-hexyloxy)-2H-1 -benzopyran-2-one | 16 mmol, 4.2 g | OCCCCCCOC1=CC2=C(C=CC(O2)=O)C=C1 | C15H18O4
reactant | triethylamine | 18 mmol, 1.82 g | C(C)N(CC)CC | C6H15N
reactant | 2,6-di-tert.-butyl-p-cresol | C(C)(C)(C)C1=CC(=CC(=C1O)C(C)(C)C)C | C15H24O
reactant | methacryloyl chloride | 1.7 ml | C(C(=C)C)(=O)Cl | C4H5ClO
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
catalyst | 4-dimethylaminopyridine | 0.3 mmol, 0.004 g | CN(C1=CC=NC=C1)C | C7H10N2
product | 6-(2-oxo-2H-1-benzopyran-7-yloxy)-hexyl 2-methyl-acrylate | 4 g | CC(C(=O)OCCCCCCOC1=CC2=C(C=CC(O2)=O)C=C1)=C | C19H22O5
